US07612114B2
6-{2-{{3-Fluoro-4-[2-(2-fluoroethylamino)ethoxyl]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (26 mg) and 2-chloro-N-(2-fluoroethyl)acetamide (14 mg) according to an analogous synthetic method to Example 567 and purified by LC-MS, the title compound (5.8 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 26 mg | FC=1C=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=CC1O | C32H36FNO5
reactant | 2-chloro-N-(2-fluoroethyl)acetamide | 14 mg | ClCC(=O)NCCF | C4H7ClFNO
product | 6-{2-{{3-Fluoro-4-[2-(2-fluoroethylamino)ethoxyl]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 5.8 mg | FC=1C=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=CC1OCCNCCF | C31H38F2N2O3
